US07776897B2
4-Hydroxybenzenecarboxylic acid was stirred with WSC hydrochloride, HOBt hydrate and cyclopropylamine in DMF at room temperature to obtain N-cyclopropyl-4-hydroxybenzamide.

reactant | 4-Hydroxybenzenecarboxylic acid | OC1=CC=C(C=C1)C(=O)O | C7H6O3
reactant | WSC hydrochloride | CCN=C=NCCCN(C)C.Cl
reactant | HOBt hydrate | C1=CC=C2C(=C1)N=NN2O.O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-cyclopropyl-4-hydroxybenzamide | C1(CC1)NC(C1=CC=C(C=C1)O)=O | C10H11NO2
